US07544835B2
Dimethyl 2-[4-ethoxy-3-({[(3-methoxyanilino)-carbonyl]oxy}methyl)benzyl]malonate
Using dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate and 3-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate | C(C)OC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)CO | C15H20O6
reactant | 3-methoxyphenylisocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
product | Dimethyl 2-[4-ethoxy-3-({[(3-methoxyanilino)-carbonyl]oxy}methyl)benzyl]malonate | C(C)OC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)COC(=O)NC1=CC(=CC=C1)OC | C23H27NO8
